datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8].[O:15][H:16]>>[C:0](#[C:1][c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:8].[H:9][O:15][H:16],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:11]([C:10](=[C:9]([H:19])[H:20])[H:21])[H:22])([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])[H:23])[H:4],36.359
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3].[N:6][H:7]>>[H:2][N:6][H:7].[N:0]([N:1]([H:4])[H:5])[H:3],24.3
[C:0](#[C:1][S:2])[H:3].[S:4]([c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16])[H:11]>>[C:0](#[C:1][S:2][H:11])[H:3].[S:4][c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16],16.3176
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:11])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11],93.106552
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[O:5][H:13])[H:6].[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:6].[O:5]([H:13])[H:14],69.5929
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[H:22])([H:10])([H:11])[H:12],7.99144
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22])[H:8],46.3169
[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[O:6]([O:7][H:9])[H:8]>>[C:0]([O:1][O:2][H:8])([H:3])([H:4])[H:5].[O:6][O:7][H:9],27.73992
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([C:15]([H:23])([H:24])[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])([H:16])([H:17])[H:18],49.4549
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[O:11][O:12][H:13]>>[C:0]1([H:5])[C:1]([H:6])([H:13])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[O:11][O:12],39.87352
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([c:28]1[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]([H:39])[c:33]1[H:40])([H:34])[H:35]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27]([c:28]1[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]([H:39])[c:33]1[H:40])([H:34])[H:35])[H:15])([H:13])[H:14],44.4759
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[S:12])[H:19])([H:13])([H:14])[H:15]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:13])([H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[S:12])[H:19],115.478
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([C:15]([H:26])([H:27])[H:28])[c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:25])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]([C:12]([H:22])([H:23])[H:24])[H:25])([C:15]([H:26])([H:27])[H:28])[c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:5],50.1662
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23])[H:9],46.5261
[C:0](=[S:1])([H:2])[H:3].[S:4]=[C:5]([C:6]([S:7][H:10])[H:9])[H:8]>>[C:0](=[S:1])[H:3].[H:2][C:6]([C:5](=[S:4])[H:8])([S:7][H:10])[H:9],187.778
[C:0]1([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])=[C:4]2[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]([H:17])([H:18])[C:8]12[H:19]>>[C:0]1([H:9])=[C:8]([H:19])[C:7]([H:17])([H:18])[C:6]([H:15])([H:16])[C:5]([H:13])([H:14])[C:4]=[C:3]([H:12])[C:2]([H:11])=[C:1]1[H:10],240.215992
